US08465674B2
Sixth step: Toluene (300 ml) and formic acid (98%; 15 g) were added to 8-(6-propyldecahydronaphthalene-2-yl)-1,4-dioxaspiro[4.5]decane (27.9 g) obtained in the fifth step, and the mixture was stirred for 7 hours. After the reaction mixture had been cooled to room temperature, it was washed with aqueous sodium hydroxide solution (1M) and water, and dried over anhydrous magnesium sulfate. The toluene was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (eluent: ethyl acetate/n-heptane=1/9 by volume) to give 4-(6-propyldecahydronaphthalene-2-yl)cyclohexanone (24.1 g).

reactant | Toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
reactant | 8-(6-propyldecahydronaphthalene-2-yl)-1,4-dioxaspiro[4.5]decane | 27.9 g | C(CC)C1CC2CCC(CC2CC1)C1CCC2(OCCO2)CC1 | C21H36O2
solvent | formic acid | 15 g | C(=O)O | CH2O2
product | 4-(6-propyldecahydronaphthalene-2-yl)cyclohexanone | 24.1 g | C(CC)C1CC2CCC(CC2CC1)C1CCC(CC1)=O | C19H32O
